US05808062
6-[4-(Cyclohexylmethoxy)phenyl]-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-(cyclohexylmethoxy)acetophenone (2.50 g, 10.77 mmol), lithium bis(trimethylsilyl)amide (2.70 g, 16.16 mmol), chlorotrimethylsilane (2.05 mL, 16.16 mmol), THF (107 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 130°-132° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.15 (m, 5 H), 1.81 (m, 6 H), 2.77 (t, 2 H), 2.97 (t, 2 H), 3.85 (d, 2 H), 6.67 (s, 1 H), 7.21 (m, 5 H), 7.45 (q, 1 H), 7.74 (d, 2 H).

reactant | 4'-(cyclohexylmethoxy)acetophenone | 10.77 mmol, 2.50 g | C1(CCCCC1)COC1=CC=C(C=C1)C(C)=O | C15H20O2
reactant | lithium bis(trimethylsilyl)amide | 16.16 mmol, 2.70 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 16.16 mmol, 2.05 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 107 mL | C1CCOC1 | C4H8O
product | 6-[4-(Cyclohexylmethoxy)phenyl]-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one | C1(CCCCC1)COC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O | C26H28O4S
